US07166598B2
To a stirred mixture of crude 3-methoxy-4-(trifluoromethyl)-benzaldehyde and 1,4-diacetylpiperazine-2,5-dione (1.98 g) in a mixture of N,N-dimethylformamide (10 ml) and tert-butanol (10 ml) was added potassium tert-butoxide (1.12 g) at 5° C. The mixture was stirred for 18 hours at room temperature. Water (30 ml) and ethyl acetate (100 ml) were added to the mixture and the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with 50% of ethyl acetate in hexane as an eluent to give 1-acetyl-3-[[3-methoxy-4-(trifluoromethyl)phenyl]methylene]piperazine-2,5-dione (2.11 g) as a powder.

reactant | 3-methoxy-4-(trifluoromethyl)-benzaldehyde | COC=1C=C(C=O)C=CC1C(F)(F)F | C9H7F3O2
reactant | 1,4-diacetylpiperazine-2,5-dione | 1.98 g | C(C)(=O)N1C(CN(C(C1)=O)C(C)=O)=O | C8H10N2O4
reactant | potassium tert-butoxide | 1.12 g | CC(C)([O-])C.[K+]
reactant | Water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-acetyl-3-[[3-methoxy-4-(trifluoromethyl)phenyl]methylene]piperazine-2,5-dione | 2.11 g | C(C)(=O)N1C(C(NC(C1)=O)=CC1=CC(=C(C=C1)C(F)(F)F)OC)=O | C15H13F3N2O4
